* circuit

*----------------------------------------------
*	GNUCAP - NETLIST
.options OUT=80 
*------------- Models -------------------------
.model simplebjt PNP (BF=200 BR=4 )

*------------- Circuit Description-------------
*V1 0 2 dc 0.0 ac 1.0 sin(0.0 1.0 1.0 0 0) 
V2 1 0 dc 10V

* c b e
Q1 3 2 1 simplebjt
Q2 4 2 1 simplebjt

I1 3 0 dc 1.22m

RL 4 0 2k

.end